US04563446
(E)-7-Phenyl-7-(3-pyridyl)-6-hepten-1-ol (2.0 g, 7.4 mmoles) was reacted with methyl isocyanate (500 mg, 8.8 mmoles) in the presence of triethylamine in the same manner as Example 9 to give 1-methylaminocarbonyloxy-(E)-7-phenyl-7-(3-pyridyl)-6-heptene (2.2 g) (Compound Id-24) as an oil. This compound forms a crystalline salt of oxalic acid.

reactant | (E)-7-Phenyl-7-(3-pyridyl)-6-hepten-1-ol | 7.4 mmoles, 2.0 g | C1(=CC=CC=C1)\C(=C/CCCCCO)\C=1C=NC=CC1 | C18H21NO
reactant | methyl isocyanate | 8.8 mmoles, 500 mg | CN=C=O | C2H3NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-methylaminocarbonyloxy-(E)-7-phenyl-7-(3-pyridyl)-6-heptene | 2.2 g | CNC(=O)OCCCCC\C=C(\C=1C=NC=CC1)/C1=CC=CC=C1 | C20H24N2O2
